US09255110B2
Acetic acid 3-acetylamino-phenyl ester (21.7 g, 112.4 mmol) was added portionwise, at −15° C., to fuming nitric acid (109 mL) maintaining the temperature below −10° C. The reaction mixture was stirred at −10° C. for 3 hours and then was poured into ice. The resulting mixture was extracted 3 times with ethyl acetate and the combined organic extracts were washed with brine, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The crude residue was purified by flash chromatography (EtOAc/hexane, 1/1) to afford 20.608 g (77% yield) of acetic acid 5-acetylamino-2-nitro-phenyl ester as a cream colored solid.

reactant | Acetic acid 3-acetylamino-phenyl ester | 112.4 mmol, 21.7 g | C(C)(=O)NC=1C=C(C=CC1)OC(C)=O | C10H11NO3
reactant | nitric acid | 109 mL | [N+](=O)(O)[O-] | HNO3
product | acetic acid 5-acetylamino-2-nitro-phenyl ester | 20.608 g, 77% yield | C(C)(=O)NC=1C=CC(=C(C1)OC(C)=O)[N+](=O)[O-] | C10H10N2O5
